US04346087
Into an apparatus similar to that in Example 1, were charged 103.1 g (1 mole) of diethylenetriamine and 116.1 g (1 mole) of methyl acetoacetate. At 140° to 150° C., 18 g of water and 32 g of methanol were distilled off. Then, with the addition of 200.3 g (1 mole) of lauric acid, the amide formation was effected at 200° to 210° C. and 18 g of water was distilled off, leaving behind 4-lauramidoethyl-7-methyl-3,6-dihydro-2H-1,4-diazepin-5-one.

reactant | diethylenetriamine | 1 mole, 103.1 g | NCCNCCN | C4H13N3
reactant | methyl acetoacetate | 1 mole, 116.1 g | C(CC(=O)C)(=O)OC | C5H8O3
reactant | lauric acid | 1 mole, 200.3 g | C(CCCCCCCCCCC)(=O)O | C12H24O2
product | 4-lauramidoethyl-7-methyl-3,6-dihydro-2H-1,4-diazepin-5-one | C(CCCCCCCCCCC)(=O)NCCN1CCN=C(CC1=O)C | C20H37N3O2
